* C:\Users\choeoliv\Desktop\Eon Eoff\model for plecs.sxsch
*#SIMETRIX
V1 Q1_D V1_N {V1}
V2 V1_N 0 {V2}
R1 R1_P V5_P {R1}
R2 R2_P V5_P {R2}
R3 Q1_S R1_P {R3}
V5 V5_P Q1_S  Pulse(0 15 100u {tr} {tf} 300u)
D1 R1_P R2_P D1n4148
X$Q1 Q1_D R1_P Q1_S BSC054N04NS_L1-Q1  pinnames: D G S 
.SUBCKT BSC054N04NS_L1-Q1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=1n Ld=1n Lg=3n  
.PARAM Rs=567u      Rg=1.5       Rd=50u       Rm=332u
.PARAM Inn=50       Unn=10       Rmax=5.4m    gmin=34
.PARAM act=2.724
X1  d1 g s Tj S4_40_k_var1 PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn}  Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
*********
.SUBCKT S4_40_k_var1 dd g s0 Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1 gmin=1 Rs=1 Rp=1 dC=0 Rm=1u
.PARAM  Fm=0.3       Fn=0.5      al=1
.PARAM  c=1.9425     Vth0=4.6    auth=3.986m
.PARAM  UT=100m      ab=22m      lB=-23       UB=45.2
.PARAM  b0=75.3      p0=7.261     p1=-20.6m   p2=36u     
.PARAM  Rd=7.33m     nmu=3       Tref=298     T0=273       lnIsj=-29.6
.PARAM  ndi=1.097    Rdi=1.82m   nmu2=0.588   ta=3n        td=20n
.PARAM  Rf=0.63      nmu3=1.074
.PARAM  f1=140p      f2=600p     f3=760p      U0=12        nc=2    nd=1.25
.PARAM  g1=0.15      bb=1        remp=0.01p   f2r=250p
.PARAM  kbq=85.8u
.PARAM  Vmin=3.6     Vmax=5.6    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}
.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.PARAM  Cds0={(f2*a+f2r*SQRT(a))*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}
.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC  J(d,g,T,da)   {a*(sgn(d)*Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1)))}
E_Edg     d   ox  VALUE {max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1)))}
C_Cdg    ox   g   {Cox}
C_Cdg1   d    g   {Cox1}
E_Eds    d    edep  VALUE {V(d,s)-1/(1-nd)*U0*((limit(1+V(d,s)/U0,0,2*UB))**(1-nd)-1)}
C_Cds  edep    s  {Cds0*0.99}
Dbody s dd dbody
.model dbody D (BV= {UB},CJO ={Cds0/100},TT ={ta},IS ={a*exp(lnIsj)} m={0.3} RS={dRdi} )
C_Cgs   g    s   {Cgs0}
G_chan    d    s VALUE={J(V(d,s),V(g,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*abs(V(d,s)))-1)/2/al)}
G_RMos   dd    d  VALUE={V(dd,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
R1        g    s  1G
Rd01      d    s  500Meg
Rd03     dd    d  1k
Rd04     g     d  500Meg
Rmet      s    s0 {Rm}  TC=4m
Rx Tj 0 1k
.ENDS
.ENDS 
X$Q2 Q1_S 0 0 BSC054N04NS_L1  pinnames: D G S 
I1 Q1_S V1_N {I1}
.TRAN 500u







.temp 125
.PARAM tr=60n
.PARAM tf=26n
.PARAM R1=100
.PARAM R2=68
.PARAM R3=10k
.PARAM V1=17.5
.PARAM V2=17.5
.PARAM I1=50

